US05763450
A solution of 6-iodo-pyridine-3-carboxylic acid (J. Am. Chem. Soc. 72, 1032, (1950)), 1.2 g of trimethyl o-formate and 0.2 g of p-toluenesulphonic acid in 75 ml of methanol is held at reflux for 2 hrs. The reaction mixture is concentrated and the residue is taken up in 50 ml of diethyl ether. The ether phase is washed twice with 50 ml of 2N aqueous sodium hydroxide solution each time and twice with 50 ml of saturated, aqueous sodium chloride solution each time, dried over magnesium sulphate and concentrated. The residue is recrystallized from 30 ml of hot methanol. 1.15 g (43%) of methyl 6-iodo-pyridine-3-carboxylate are isolated as a colourless solid. M.p. 134°-135°.

reactant | 6-iodo-pyridine-3-carboxylic acid | IC1=CC=C(C=N1)C(=O)O | C6H4INO2
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 75 ml | CO | CH4O
product | methyl 6-iodo-pyridine-3-carboxylate | 1.15 g, 43% | IC1=CC=C(C=N1)C(=O)OC | C7H6INO2
